US04073890
(b) Preparation of Phe-Arg-Gly-Phe-Phe-NH2
In 6-ml. of anhydrous hydrogen fluoride was dissolved 500 mg. of Z-Phe-Arg(NO2)-Gly-Phe-Phe-NH2 and the solution was stirred at -10° C for 40 minutes. The hydrogen fluoride was distilled off and the residue was dissolved in 10 ml. of water. The solution was passed through a column (0.9 × 15 cm) of Amberlite IRA-410(acetate-form) which was washed with water. The effluent was combined with the washings and the combined solution was lyophilized. The procedure yielded 402 mg. of the above-indicated compound. Amino acid analysis: Arg, 1.01; Gly, 0.98; Phe, 2.94 (peptide content 86.2%).

reactant | hydrogen fluoride | F | FH
reactant | Z-Phe-Arg(NO2)-Gly-Phe-Phe-NH2 | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N)C(=O)OCC1=CC=CC=C1 | C43H50N10O9
reactant | Arg | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | Gly | NCC(=O)O | C2H5NO2
reactant | Phe | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
product | Phe-Arg-Gly-Phe-Phe-NH2 | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCNC(N)=N)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N | C35H45N9O5
